US04988689
A mixture of 1.7 parts of 2-chloropyrimidine, 4.1 parts of N-[1-(2-aminoethyl)-3-pyrrolidinyl]-3-(4-thiazolylmethyl)-3H-imidazo[4,5-b]-pyridin-2-amine, 2.1 parts of sodium carbonate and 108 parts of N,N-di-methylacetamide was stirred for 6 hours at 100° C. After cooling, the reaction mixture was poured into 600 parts of water and the product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was converted into the (E)-2-butenedioate salt in 2-propanone and ethanol. The salt was filtered off, washed with 2-propanone and crystallized from a mixture of 2,2'-oxybispropane and methanol (1:1 by volume). The product was filtered off, washed with 2-propanone and dried in vacuo at 60° C., yielding 3.0 parts (32.1%) of N-[1-[2-(2-pyrimidinylamino)ethyl]-3-pyrrolidinyl]-3-(4-thiazolylmethyl)-3H-imidazo[4,5-b]pyridin-2-amine (E)-2-butenedioate(1:3), hemihydrate; mp. 161.7° C. (compound 155).

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | N-[1-(2-aminoethyl)-3-pyrrolidinyl]-3-(4-thiazolylmethyl)-3H-imidazo[4,5-b]-pyridin-2-amine | NCCN1CC(CC1)NC1=NC=2C(=NC=CC2)N1CC=1N=CSC1 | C16H21N7S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-di-methylacetamide | CN(C(C)=O)C | C4H9NO
reactant | water | O | H2O
product | N-[1-[2-(2-pyrimidinylamino)ethyl]-3-pyrrolidinyl]-3-(4-thiazolylmethyl)-3H-imidazo[4,5-b]pyridin-2-amine (E)-2-butenedioate | 32.1% | C(\C=C\C(=O)O)(=O)O.N1=C(N=CC=C1)NCCN1CC(CC1)NC1=NC=2C(=NC=CC2)N1CC=1N=CSC1 | InChI=1S/C20H23N9S.C4H4O4/c1-3-17-18(21-5-1)29(12-16-13-30-14-25-16)20(27-17)26-15-4-9-28(11-15)10-8-24-19-22-6-2-7-23-19;5-3(6)1-2-4(7)8/h1-3,5-7,13-15H,4,8-12H2,(H,26,27)(H,22,23,24);1-2H,(H,5,6)(H,7,8)/b;2-1+
